US04857650
To a suspension of 10.0 g of L-histidine methyl ester dihydrochloride in 200 ml of dry chloroform were added 18.4 ml of triethylamine and 10.2 g of 4-methoxybenzyloxycarbonylazide under ice-cooling, and the mixture was stirred for 16 hours at 0° C. The reaction mixture was concentrated under reduced pressure, and to the residue was added a 5% aqueous sodium bicarbonate solution. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel flash column chromatography (eluent: chloroform/methanol=10/1 by volume) to obtain 11.0 g of N-(4-methoxybenzyloxycarbonyl)-L-histidine methyl ester as a yellow oil. To a solution of 10.9 g of the ester compound in 112 ml of methyl alcohol was added 9.9 ml of hydrazine monohydrate, and the mixture was stirred for 4 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was washed with ethyl alcohol and dried under reduced pressure at below 40° C. to obtain 4.9 g of N-(4-methoxybenzyloxycarbonyl)-L-histidine hydrazide as a white powder.

reactant | L-histidine methyl ester dihydrochloride | 10.0 g | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
reactant | triethylamine | 18.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzyloxycarbonylazide | 10.2 g | COC1=CC=C(COC(=O)N=[N+]=[N-])C=C1 | C9H9N3O3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-methoxybenzyloxycarbonyl)-L-histidine methyl ester | 11.0 g | COC([C@@H](NC(=O)OCC1=CC=C(C=C1)OC)CC1=CNC=N1)=O | C16H19N3O5
